US04851526
2-[4-(1H-Imidazol-1-yl)phenoxy]ethanamine dihydrochloride
To a cold solution of 11.3 g (0.235 mol) 50% sodium hydride in 50 mL dimethylformamide add 15 g (0.094 mol) 4-(1H-imidazol-1-yl)phenol portionwise. Maintain the temperature below 0° C. during the addition. After the addition, add dropwise a solution of 10.89 g (0.094 mol) 2-chloroethylamine hydrochloride in 50 mL dimethylformamide. After addition, warm the reaction mixture to 70° C., and heat for 24 hours. After this time, cool the reaction mixture and quench with water. Filter the solids and wash the mother liquors with 2X250 mL ether, 3X250 mL methylene chloride. Dry the methylene chloride layers over Na2SO4 and evaporate the solvents. Dissolve the resultant oil in methanolic HCl and evaporate the solvent to obtain the title compound.

reactant | sodium hydride | 0.235 mol, 11.3 g | [H-].[Na+]
reactant | 4-(1H-imidazol-1-yl)phenol | 0.094 mol, 15 g | N1(C=NC=C1)C1=CC=C(C=C1)O | C9H8N2O
reactant | 2-chloroethylamine hydrochloride | 0.094 mol, 10.89 g | Cl.ClCCN
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
product | 2-[4-(1H-Imidazol-1-yl)phenoxy]ethanamine dihydrochloride | Cl.Cl.N1(C=NC=C1)C1=CC=C(OCCN)C=C1 | InChI=1S/C11H13N3O.2ClH/c12-5-8-15-11-3-1-10(2-4-11)14-7-6-13-9-14;;/h1-4,6-7,9H,5,8,12H2;2*1H
